US07601674B2
A 80% solution of propargyl bromide in toluene (1.6 g, 11 mmol) is added slowly at room temperature to a mixture of 3-(4-chloro-phenoxy)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-propionamide (3.5 g, 8.7 mmol), 30% sodium hydroxide solution (4.5 ml, 44 mmol) and catalytic amounts of tetrabutylammonium bromide (50 mg) in 30 ml of dichloromethane. The reaction is stirred for 16 hours at +40° C. Subsequently the mixture is evaporated and the residue is diluted with water and dichloromethane. The phases are separated and the aqueous phase is extracted three times with dichloromethane. The combined organic layer is washed with brine, dried over sodium sulfate and evaporated. The remaining oil is purified by chromatography on silica gel (ethyl acetate/hexane 1:1) to yield 3-(4-chloro-phenoxy)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-prop-2-ynyloxy-propionamide (Compound E1.24).

reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 11 mmol, 1.6 g | C1(=CC=CC=C1)C | C7H8
reactant | 3-(4-chloro-phenoxy)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-propionamide | 8.7 mmol, 3.5 g | ClC1=CC=C(OCC(C(=O)NCCC2=CC(=C(C=C2)OCC#C)OC)O)C=C1 | C21H22ClNO5
reactant | sodium hydroxide | 44 mmol, 4.5 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 50 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(4-chloro-phenoxy)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-2-prop-2-ynyloxy-propionamide | ClC1=CC=C(OCC(C(=O)NCCC2=CC(=C(C=C2)OCC#C)OC)OCC#C)C=C1 | C24H24ClNO5
